US07459554B2
3-[3-(8-Amino-3-cyclobutyl-imidazo[1,5-a]pyrazin-1-yl)-phenoxymethyl]-benzoic acid:
A 5 mL methanolic solution of 3-[3-(8-Amino-3-cyclobutyl-imidazo[1,5-a]pyrazin-1-yl)-phenoxymethyl]-benzoic acid methyl ester (600 mg, 1.40 mmol) with 5 mL THF was charged with 5 mL of 10 N NaOH and the reaction mixture was heated to 60° C. After 1 h, the reaction was allowed to cool to rt and the pH of the reaction mixture was lowered to 3-4. A white precipitate formed, which was filtered and washed with hexanes to afford the title compound as a white powder; 1H NMR (CDCl3, 400 MHz) δ 1.90-1.97 (m, 1H), 2.04-2.15 (m, 1H), 2.36-2.56 (m, 4H), 3.60-3.79 (m, 1H), 5.10 (s, 2H), 6.84 (d, J=5.2 Hz, 1H), 6.97-7.01 (m, 1H), 7.07 (d, J=5.6 Hz, 1H), 7.12-7.15 (m, 2H), 7.32-7.40 (m, 2H), 7.54 (d, J=7.2 Hz, 1H), 7.91 (d, J=7.6 Hz, 1H), 8.02 (s, 1H); MS (ES+): m/z 415.15 (100) [MH+].

reactant | 3-[3-(8-Amino-3-cyclobutyl-imidazo[1,5-a]pyrazin-1-yl)-phenoxymethyl]-benzoic acid methyl ester | 1.40 mmol, 600 mg | COC(C1=CC(=CC=C1)COC1=CC(=CC=C1)C=1N=C(N2C1C(=NC=C2)N)C2CCC2)=O | C25H24N4O3
reactant | NaOH | 10 N, 5 mL | [OH-].[Na+]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 3-[3-(8-Amino-3-cyclobutyl-imidazo[1,5-a]pyrazin-1-yl)-phenoxymethyl]-benzoic acid | NC=1C=2N(C=CN1)C(=NC2C=2C=C(OCC=1C=C(C(=O)O)C=CC1)C=CC2)C2CCC2 | C24H22N4O3
